US07407971B2
N-(tert-butoxycarbonyl)-N-(2-cyanoethyl)-2-methylalanine
44.5 g (0.285 mol) of N-(2-cyanoethyl)-2-methylalanine and 51.7 g of tetramethylammonium hydroxide pentahydrate were dissolved in acetonitrile (2 l) at 40° C. and when a clear solution was obtained, 112 g of Boc2O were added. The mixture was left for 24 hours at 40° C. The day after, further 20 g of Boc2O were added while maintaining the temperature of 40° C. Every 8-12 hours 20 g of Boc2O were added up to a total of 192 g. After 4 days the solvent was evaporated, the residue taken up with water (1000 ml) and washed twice with ethyl ether (500 ml). The aqueous fraction was brought to pH 3-4 with citric acid and extracted with ethyl acetate washed with water (200 ml) and concentrated. 52 g of the title compound were obtained. (yield: 72%).

reactant | N-(2-cyanoethyl)-2-methylalanine | 0.285 mol, 44.5 g | C(#N)CCNC(C)(C(=O)O)C | C7H12N2O2
reactant | tetramethylammonium hydroxide pentahydrate | 51.7 g | O.O.O.O.O.[OH-].C[N+](C)(C)C
reactant | Boc2O | 112 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | Boc2O | 20 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | Boc2O | 20 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 2 l | C(C)#N | C2H3N
product | N-(tert-butoxycarbonyl)-N-(2-cyanoethyl)-2-methylalanine | 52 g, yield: 72% | C(C)(C)(C)OC(=O)N(C(C)(C(=O)O)C)CCC#N | C12H20N2O4
